US07030128B2
6-Chloronicotinonitrile (295 mg, 2.13 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.4 mmol) by the method of Example 1 to give 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)nicotinonitrile (142 mg) as a white solid: δH (400 MHz, DMSO) 7.79 (1H, d, J 7), 8.35 (1H, m), 8.43 (1H, m), 9.06 (1H, s), 9.14 (1H, s), 10.41 (1H, d, J 7); m/z (ES+) 290 (M++H).

reactant | 6-Chloronicotinonitrile | 2.13 mmol, 295 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.4 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)nicotinonitrile | 142 mg | FC(C1=NC=2N(C=C1)C(=CN2)C2=NC=C(C#N)C=C2)(F)F | C13H6F3N5
